US08492582B2
Trifluoroacetic acid (4.0 mL) was added to the obtained tert-butyl 4-(4-((tert-butoxycarbonyl)(methyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate (0.16 g), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration, and ethanol and water were added to the obtained solid substance. After adjusting the pH to 5.5 with a 1 mol/L aqueous solution of sodium hydroxide, the solid substance was collected by filtration to obtain 0.11 g of 4-(4-(methylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a light yellow solid.

reactant | Trifluoroacetic acid | 4.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(4-((tert-butoxycarbonyl)(methyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.16 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)C | C35H37N3O5
product | 4-(4-(methylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 0.11 g | CNC1=CC=C(C=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C26H21N3O3
